US06589970B2
A mixture of 1-(2-butyl-1-methyl-1H-indol-3-yl)-2,2,2-trichloro-ethanone (4.87 g, 14.7 mmol), prepared in the previous step, and 1 N NaOH (73.5 mL, 73.5 mmol) in 350 mL of THF was refluxed under nitrogen for 2.25 h. After cooling to room temperature 1 N HCl (80 mL, 80 mmol) was added and then the solvent was removed under reduced pressure. The residue was partitioned between 1 N HCl and methylene chloride. The organic layer was separated and the aqueous layer extracted three times with methylene chloride. The combined extracts were dried (MgSO4) and the solvent removed under reduced pressure to give 2-butyl-1-methyl-1H-indole-3-carboxylic acid (3.44 g, 100%) as a brown solid, mp 163-165° C.

reactant | 1-(2-butyl-1-methyl-1H-indol-3-yl)-2,2,2-trichloro-ethanone | 14.7 mmol, 4.87 g | C(CCC)C=1N(C2=CC=CC=C2C1C(C(Cl)(Cl)Cl)=O)C | C15H16Cl3NO
reactant | NaOH | 73.5 mmol, 1 N, 73.5 mL | [OH-].[Na+]
reactant | HCl | 80 mmol, 1 N, 80 mL | Cl | ClH
solvent | THF | 350 mL | C1CCOC1 | C4H8O
product | 2-butyl-1-methyl-1H-indole-3-carboxylic acid | 3.44 g, 100% | C(CCC)C=1N(C2=CC=CC=C2C1C(=O)O)C | C14H17NO2
